US07595414B2
In a 200 mL-volume flask equipped with a stirrer, a thermometer and a dropping funnel was placed 8.20 g (210 mmol) of sodium amide, and the flask was purged with argon. Then, 80 mL of toluene was placed in the flask. Subsequently, 15.1 g (150.8 mmol) of 3,3-dimethyl-2-butanone was slowly dropped into the flask, and the resulting mixture was stirred for 15 minutes. Into the flask was further dropped 5.50 g (46.6 mmol) of methyl 2-methoxypropionate (prepared by the method of Reference Example 1), and the mixture was stirred for 30 minutes for carrying out a reaction. After the reaction was complete, 50 mL of water was placed in the flask under cooling with ice. The aqueous portion was taken out, neutralized with acetic acid, and subjected to extraction with ether. The ether extract was washed with water, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated and distilled under reduced pressure (59° C., 492 Pa) to give 4.50 g (yield: 52%) of 2-methoxy-6,6-dimethyl-3,5-heptanedione as colorless liquid.

reactant | sodium amide | 210 mmol, 8.20 g | [NH2-].[Na+]
reactant | 3,3-dimethyl-2-butanone | 150.8 mmol, 15.1 g | CC(C(C)=O)(C)C | C6H12O
reactant | methyl 2-methoxypropionate | 46.6 mmol, 5.50 g | COC(C(=O)OC)C | C5H10O3
reactant | water | 50 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methoxy-6,6-dimethyl-3,5-heptanedione | 4.50 g, yield: 52% | COC(C)C(CC(C(C)(C)C)=O)=O | C10H18O3
